US04314081
A solution of 100 g. potassium hydroxide, 85 ml. water, 400 ml. ethylene glycol and 9.50 g. of N-methyl-N-cyano 3-(p-trifluoromethylphenoxy)-3-phenylpropylamine was prepared in a one liter three-neck, round-bottom flask equipped with magnetic stirrer and condenser. The reaction mixture was heated to refluxing temperature (130° C.) for 20 hours, and was then cooled. 500 ml. of water were added. The reaction mixture was extracted with three 500 ml. portions of ether. The ether extracts were combined, and the combined extracts washed with water. The water wash was discarded. The ether solution was next contacted with 2 N aqueous hydrochloric acid. The acidic aqueous layer was separated. A second aqueous acidic extract with 2 N hydrochloric acid was made followed by three aqueous extracts and an extract with saturated aqueous sodium chloride. The aqueous layers were all combined and made basic with 5 N aqueous sodium hydroxide. N-methyl 3-(p-trifluoromethylphenoxy)-3-phenylpropylamine, formed in the above reaction, was insoluble in the basic solution and separated. The amine was extracted into ether. Two further ether extractions were carried out. The ether extracts were combined, and the combined extracts washed with saturated aqueous sodium chloride and then dried. Evaporation of the ether in vacuo yielded about 6.3 g. of N-methyl 3-(p-trifluoromethylphenoxy)-3-phenylpropylamine. The amine free base was converted to the corresponding oxalate salt by the method set forth above. N-methyl 3-(p-trifluoromethylphenoxy) -3-phenylpropylamine oxalate thus prepared melted at 179°-182° C. with decomposition after recrystallization from an ethyl acetate-methanol solvent mixture.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | N-methyl-N-cyano 3-(p-trifluoromethylphenoxy)-3-phenylpropylamine | CN(C#N)CCC(C1=CC=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C18H17F3N2O
solvent | water | O | H2O
product | N-methyl 3-(p-trifluoromethylphenoxy)-3-phenylpropylamine | CNCCC(C1=CC=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C17H18F3NO
